US07816369B2
To a solution of 2-nitro-3-methoxyaniline (90 mg; 0.54 mmol) in ethanol (3 ml) was added 5% palladium on carbon (18 mg; 20 wt %). The resulting suspension was stirred at room temperature under an atmosphere of hydrogen for 18 hours. The suspension was then filtered through celite and the filtrate evaporated to give 3-methoxy-1,2-phenylenediamine (73 mg, 100%).

reactant | 2-nitro-3-methoxyaniline | 0.54 mmol, 90 mg | [N+](=O)([O-])C1=C(N)C=CC=C1OC | C7H8N2O3
solvent | ethanol | 3 ml | C(C)O | C2H6O
catalyst | palladium on carbon | 18 mg | [Pd] | Pd
product | 3-methoxy-1,2-phenylenediamine | 73 mg, 100% | COC=1C(=C(C=CC1)N)N | C7H10N2O
